US05393755
2-Chloro-6-benzyloxypurine
2,6-dichloropurine (0.30 g, 1.6 mmol) is added to a mixture of benzyl alcohol (0.19 g, 1.8 mmol) and 60% sodium hydride (0.13 g, 3.3 mmol) in DMF (8 ml) at room temperature (RT). After 1 hr, the reaction is heated to 60° C. for 18 hr, cooled to RT and dilute HCl is added to adjust the pH to 5. The mixture is extracted with EtOAc/THF 1:1, and the organic layer is dried over sodium sulfate, filtered and concentrated to give a solid. This is recrystallized from EtOAc/hexane to give the title compound, mp. 195°-196° C.

reactant | 2,6-dichloropurine | 1.6 mmol, 0.30 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | benzyl alcohol | 1.8 mmol, 0.19 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 3.3 mmol, 0.13 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-6-benzyloxypurine | ClC1=NC(=C2NC=NC2=N1)OCC1=CC=CC=C1 | C12H9ClN4O
